US05382590
0.18 g of pyridine and then 0.17 g of hydroxylamine hydrochloride in solution in 3 cm3 of water are added to a solution of 1 g of 2-{2-[3-(3-formylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide in 6 cm3 of methanol. The mixture is heated under reflux for 3 hours. After cooling, the insoluble product is separated off by filtration, washed with 3 times 3 cm3 of water and air-dried. After recrystallization from a dimethylformamide/water mixture (50/50 by volume), 0.5 g of (E)-2-{2-[3-(3-hydroxyiminomethylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide melting at 219° C is obtained.

reactant | pyridine | 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.17 g | Cl.NO
reactant | 2-{2-[3-(3-formylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide | 1 g | C(=O)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C25H24N4O4
solvent | water | 3 cm3 | O | H2O
solvent | methanol | 6 cm3 | CO | CH4O
product | (E)-2-{2-[3-(3-hydroxyiminomethylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide | 0.5 g | O\N=C\C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C25H25N5O4
